US05654307
A mixture of 7-amino-4-methylthiopyrido[4,3-d]pyrimidine (236 mg, 1.23 mmol) (described in a previous experimental) and 3-dimethylamino-benzylamine (1.36 g, 9.07 mmol) in isopropanol (5 mL) is stirred under N2 at reflux for 1 h, and the resulting product is chromatographed on silica gel (10-15% EtOH/EtOAc), then on alumina (1% EtOH/CHCl3) to give 7-amino-4-(3-dimethylaminobenzylamino)pyrido[4,3-d]pyrimidine (145 mg, 40%) as a white solid. 1H NMR (DMSO) δ 9.11 (1H, s), 8.79 (1H, t, J=5.9 Hz), 8.26 (1H, s), 7.11 (1H, dd, J=8.0, 7.7 Hz), 6.73 (1H, brs), 6.63 (1H, d, J=7.6 Hz), 6.60 (1H, dd, J=8.1, 2.2 Hz), 6.44 (2H, brs), 6.35 (1H, s), 4.67 (2H, d, J=5.8 Hz), 2.86 (6H, s).

reactant | 7-amino-4-methylthiopyrido[4,3-d]pyrimidine | 1.23 mmol, 236 mg | NC1=CC=2N=CN=C(C2C=N1)SC | C8H8N4S
reactant | 3-dimethylamino-benzylamine | 9.07 mmol, 1.36 g | CN(C=1C=C(CN)C=CC1)C | C9H14N2
solvent | isopropanol | 5 mL | C(C)(C)O | C3H8O
product | 7-amino-4-(3-dimethylaminobenzylamino)pyrido[4,3-d]pyrimidine | 145 mg, 40% | NC1=CC=2N=CN=C(C2C=N1)NCC1=CC(=CC=C1)N(C)C | C16H18N6
